US04559353
(a) 3-Chloro-5-trifluoromethyl-2-(4-nitrophenoxy)pyridine
2,3-Dichloro-5-trifluoromethylpyridine (2.16 g, 0.01M) and 4-nitrophenol (1.53 g, 0.011M) were mixed in methyl ethyl ketone (10 ml) containing anhydrous potassium carbonate (2.0 g) and heated at the reflux temperature for 10 hours. The cooled mixture was filtered to remove the solid matter and the filtrate concentrated by evaporation of the solvent under reduced pressure. The residue was triturated with diethyl ether and 3-chloro-5-trifluoromethyl-2-(4-nitrophenoxy)pyridine collected as a buff coloured solid (0.75 g), m.p. 98°-100° C.

reactant | 2,3-Dichloro-5-trifluoromethylpyridine | 0.01M, 2.16 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | 4-nitrophenol | 0.011M, 1.53 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 10 ml | C(C)C(=O)C | C4H8O
product | 3-Chloro-5-trifluoromethyl-2-(4-nitrophenoxy)pyridine | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(C=C1)[N+](=O)[O-] | C12H6ClF3N2O3
